US09278968B2
To a mixture of 2.19 g of N-[2-(2,2-dimethyl-1,3-dioxolan-4-yl)benzyl]-2,2,2-trifluoroacetamide and 22 ml of methanol was added 5.0 ml of a 2 M aqueous sodium hydroxide solution, followed by stirring at 50° C. for 24 hours. The reaction mixture was left to be cooled to room temperature and then concentrated under reduced pressure, and water was added thereto, followed by extraction with chloroform. The organic layer was dried over anhydrous magnesium sulfate and the solvent was then evaporated under reduced pressure to obtain 1.52 g of 1-[2-(2,2-dimethyl-1,3-dioxolan-4-yl)phenyl]methanamine.

reactant | N-[2-(2,2-dimethyl-1,3-dioxolan-4-yl)benzyl]-2,2,2-trifluoroacetamide | 2.19 g | CC1(OCC(O1)C1=C(CNC(C(F)(F)F)=O)C=CC=C1)C | C14H16F3NO3
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
solvent | methanol | 22 ml | CO | CH4O
product | 1-[2-(2,2-dimethyl-1,3-dioxolan-4-yl)phenyl]methanamine | 1.52 g | CC1(OCC(O1)C1=C(C=CC=C1)CN)C | C12H17NO2
